US04220647
3,4-Dimethoxyphenethylamine (8.05 g) and N,N-diphenylglycine (10 g) were heated for 2 hours at 190° C. After cooling, the reaction mixture was dissolved in ethylacetate. The resulting solution was washed with a 5% sodium bicarbonate aqueous solution and water and then dried. The solvent was distilled off from the solution to give crystals of N-[2-(3,4-dimethoxyphenyl)ethyl]-2-(N,N-diphenylamino)acetamide (11.5 g), mp 88° to 93° C.

reactant | 3,4-Dimethoxyphenethylamine | 8.05 g | COC=1C=C(CCN)C=CC1OC | C10H15NO2
reactant | N,N-diphenylglycine | 10 g | C1(=CC=CC=C1)N(CC(=O)O)C1=CC=CC=C1 | C14H13NO2
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | N-[2-(3,4-dimethoxyphenyl)ethyl]-2-(N,N-diphenylamino)acetamide | 11.5 g | COC=1C=C(C=CC1OC)CCNC(CN(C1=CC=CC=C1)C1=CC=CC=C1)=O | C24H26N2O3
